US05977178
N-Methyl-N-{(1R)-1-(N-methyl-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)carbamoyl)-2-(2-naphthyl)ethyl}carbamic acid tert-butyl ester (600 mg, 1.19 mmol) was stirred in trifluoroacetic acid/methylene chloride (1:1, 5 mL) for 10 min and the volatiles were removed in vacuo. The residue was stripped with diethylether (2×5 mL) and dissolved in methanol (2 mL) and mixed with sodium hydrogen carbonate (10 mL) and ethylacetate (15 mL). The organic phase was separated and dried (magnesium sulfate) to afford 420 mg of (2R)-N-methyl-2-methylamino-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)-3-(2-naphthyl)propionamide.

reactant | N-Methyl-N-{(1R)-1-(N-methyl-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)carbamoyl)-2-(2-naphthyl)ethyl}carbamic acid tert-butyl ester | 1.19 mmol, 600 mg | C(C)(C)(C)OC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC=CC=C1)C(NC)=O)C)=O)C)=O | C30H37N3O4
solvent | trifluoroacetic acid methylene chloride | 5 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | (2R)-N-methyl-2-methylamino-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)-3-(2-naphthyl)propionamide | 420 mg | CN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)[C@H](CC1=CC=CC=C1)C(NC)=O | C25H29N3O2
